US07732446B1
As described in Example 1, 94 mg of [1-(tert-butoxycarbonylamino-methyl)-6,7-dimethoxy-isoquinolin-4-yl]-acetic acid was coupled with methyl-pyridin-3-ylmethyl-amine to give {6,7-dimethoxy-4-[(methyl-pyridin-3-ylmethyl-carbamoyl)-methyl]-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester. MS: APCI (M+H) calc'd for C26H32N4O5+H 481.6; found 481.0.

reactant | [1-(tert-butoxycarbonylamino-methyl)-6,7-dimethoxy-isoquinolin-4-yl]-acetic acid | 94 mg | C(C)(C)(C)OC(=O)NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC(=O)O | C19H24N2O6
reactant | methyl-pyridin-3-ylmethyl-amine | CNCC=1C=NC=CC1 | C7H10N2
product | {6,7-dimethoxy-4-[(methyl-pyridin-3-ylmethyl-carbamoyl)-methyl]-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC(N(CC=1C=NC=CC1)C)=O)=O | C26H32N4O5
